US04150153
A mixture of 5.45 g. of 1-(2-naphthoylmethyl)imidazole hydrochloride, 2.49 g. ethylene glycol and 7.6 g. p-toluenesulfonic acid monohydrate in 50 ml. of toluene is heated overnight under reflux through a Dean-Stark trap. The trap is then replaced by a separatory funnel containing 4 A molecular seives and heating is continued for a further day. After cooling, the mixture is treated with 200 ml. of ethyl acetate, neutralized by pouring into excess aqueous potassium carbonate and the organic phase separated and dried (MgSO4) to afford a solution of 1-[2,2-ethylenedioxy-2-(2-naphthyl)ethyl]imidazole. The hydrochloride salt is prepared by dropwise addition of ethereal hydrogen chloride until precipitation is complete. Filtration and recrystallization from acetone/methanol gives 3.9 g. pure hydrochloride. m.p. 269°-270° C.

reactant | 1-(2-naphthoylmethyl)imidazole hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(=O)CN1C=NC=C1
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[2,2-ethylenedioxy-2-(2-naphthyl)ethyl]imidazole | C1OC(CN2C=NC=C2)(C2=CC3=CC=CC=C3C=C2)OC1 | C17H16N2O2
